US05003000
Redox Polymerization of N-Octylacrylamide-Acrylamide-DMA
A solution was prepared of 15 g of sodium dodecylsulfate in 500 mL of deoxygenated water. N-1-octyl-acrylamide, 0.496 g, was dissolved in this solution followed by 15.2 g of acrylamide and 14.31 g of DMA. The resulting solution was carefully transferred to a 1 L Morton style resin kettle fitted with a chilled water condenser, thermometer, inert gas sparger and mechanical stirrer. The temperature was adjusted to 20 C. and polymerization was initiated by the addition of 0.0165 g of potassium persulfate, K2S2O8, and 0.0116 g of sodium bisulfite, Na2S2O5. After stirring for 22 hr at 20 ±0.2 C., a 333 mL portion of the viscous solution was poured slowly into 3 L of acetone. The precipitated polymer was then masticated in a Waring blender with acetone, filtered and dried under vacuum at 30 C. The yield of polymer was 8.43 g. A similar procedure was used to prepare the polymers illustrated in Table I.

reactant | sodium dodecylsulfate | 15 g | C(CCCCCCCCCCC)OS(=O)(=O)[O-].[Na+]
reactant | N-1-octyl-acrylamide | C(CCCCCCC)NC(C=C)=O | C11H21NO
reactant | acrylamide | 15.2 g | C(C=C)(=O)N | C3H5NO
reactant | potassium persulfate | 0.0165 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | sodium bisulfite | 0.0116 g | S([O-])(O)=O.[Na+]
solvent | water | 500 mL | O | H2O
solvent | acetone | CC(=O)C | C3H6O
solvent | acetone | 3 L | CC(=O)C | C3H6O
solvent | DMA | 14.31 g | CC(=O)N(C)C | C4H9NO
product | N-Octylacrylamide Acrylamide DMA | C(CCCCCCC)NC(C=C)=O.C(C=C)(=O)N.CC(=O)N(C)C | InChI=1S/C11H21NO.C4H9NO.C3H5NO/c1-3-5-6-7-8-9-10-12-11(13)4-2;1-4(6)5(2)3;1-2-3(4)5/h4H,2-3,5-10H2,1H3,(H,12,13);1-3H3;2H,1H2,(H2,4,5)
